US08685986B2
tert-Butyl(tert-butoxycarbonyl{6-[(4-fluorobenzenesulfonyl)aminomethyl]pyridin-2-yl}amino)acetate
Reaction and post-treatment were carried out in the same manner as in Reference Example 12-(d) except for using tert-butyl[(6-aminomethylpyridin-2-yl)tert-butoxycarbonylamino]acetate (7.00 g, 20.7 mmol) obtained in Reference Example 12-(c), and using 4-fluorobenzenesulfonyl chloride (4.00 g, 20.6 mmol) in place of 3-pyridylsulfonyl chloride to afford the title compound (4.91 g) as a white solid. (Yield: 48%)

reactant | tert-butyl[(6-aminomethylpyridin-2-yl)tert-butoxycarbonylamino]acetate | 20.7 mmol, 7.00 g | C(C)(C)(C)OC(CN(C(=O)OC(C)(C)C)C1=NC(=CC=C1)CN)=O | C17H27N3O4
reactant | 4-fluorobenzenesulfonyl chloride | 20.6 mmol, 4.00 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | tert-Butyl(tert-butoxycarbonyl{6-[(4-fluorobenzenesulfonyl)aminomethyl]pyridin-2-yl}amino)acetate | 4.91 g, Yield: 48% | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)CNS(=O)(=O)C1=CC=C(C=C1)F)C(=O)OC(C)(C)C)=O | C23H30FN3O6S
